US08703768B2
Step 2: 6-(1-Hydroxy-ethyl)-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid (1-methyl-3-methylcarbamoyl-1H-pyrazol-4-yl)-amide
To a stirred, cooled (0° C.) suspension of 6-acetyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid (1-methyl-3-methylcarbamoyl-1H-pyrazol-4-yl)-amide (12 mg, 30.4 μmol) in ethanol (2 ml) under an argon atmosphere was added sodium borohydride (1.15 mg, 30.4 μmol) in one portion. Stirring was continued for 1 hr at rt. More sodium borohydride (3 eq.) was added in one portion. The mixture was heated to reflux and stirring as continued for 30 min. The reaction was cooled to rt and concentrated. The crude product was purified by silica gel chromatography using a CH2Cl2/MeOH gradient as eluent. The title compound (4 mg, 33%) as yellow solid.

reactant | 6-acetyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid (1-methyl-3-methylcarbamoyl-1H-pyrazol-4-yl)-amide | 30.4 μmol, 12 mg | CN1N=C(C(=C1)NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C(C)=O)C(NC)=O | C17H17N9O3
reactant | sodium borohydride | 30.4 μmol, 1.15 mg | [BH4-].[Na+]
reactant | sodium borohydride | 3 eq. | [BH4-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 6-(1-Hydroxy-ethyl)-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid (1-methyl-3-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=C(C(=C1)NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C(C)O)C(NC)=O | C17H19N9O3
